.subckt X1 0001 0002 0003 0004 0005 0006 0007 0008 0009 0010 0011 0012 0013 0014 0015 0016 0017
R0 0001 0018 7.1299521502e-05 
L0 0018 0019 6.54063932731e-10 
C0 0019 0 2.56280219513e-12 
R1 0001 0020 0.000256595864433 
L1 0020 0002 3.27992920501e-09 
C1 0002 0 7.44200875097e-12 
R2 0021 0022 0.000180300012422 
L2 0022 0023 1.1035140817e-09 
C2 0023 0 1.03600085228e-12 
R3 0021 0024 1e-06 
L3 0024 0025 1e-12 
R4 0021 0026 0.000306997512241 
L4 0026 0027 2.12660047654e-09 
C4 0027 0 1.64743094066e-12 
R5 0025 0028 0.0138930012722 
L5 0028 0013 4.33e-09 
R6 0029 0030 0.000560537609552 
L6 0030 0031 4.58883868421e-09 
C6 0031 0 2.91539233829e-12 
R7 0029 0032 0.000582404520709 
L7 0032 0033 4.80727763954e-09 
C7 0033 0 3.03209759701e-12 
R8 0029 0034 1e-06 
L8 0034 0035 1e-12 
R9 0035 0036 0.000941923214865 
L9 0036 0012 2.165e-09 
R10 0002 0037 0.000318146988151 
L10 0037 0038 4.24039680897e-09 
C10 0038 0 9.00991982712e-12 
R11 0039 0040 1e-06 
L11 0040 0041 1e-12 
R12 0039 0042 0.000221396401631 
L12 0042 0043 1.42667899774e-09 
C12 0043 0 1.23799357514e-12 
R13 0039 0044 0.000261939590908 
L13 0044 0027 1.77122763281e-09 
C13 0027 0 1.4454382178e-12 
R14 0041 0045 0.0138930012722 
L14 0045 0015 4.33e-09 
R15 0033 0046 1e-06 
L15 0046 0047 1e-12 
R16 0033 0048 0.000221396401631 
L16 0048 0049 1.42667899774e-09 
C16 0049 0 1.23799357514e-12 
R17 0047 0050 0.000941923214865 
L17 0050 0014 2.165e-09 
R18 0003 0051 0.00048821624719 
L18 0051 0004 5.38557755605e-09 
C18 0004 0 7.14249211202e-12 
R19 0003 0052 0.000318510331431 
L19 0052 0053 3.26103910025e-09 
C19 0053 0 4.87516709659e-12 
R20 0054 0055 0.000391154830364 
L20 0055 0056 4.92229604532e-09 
C20 0056 0 8.64688873166e-12 
R21 0054 0057 1e-06 
L21 0057 0058 1e-12 
R22 0054 0059 6.09106479232e-05 
L22 0059 0060 4.76489703971e-10 
C22 0060 0 1.81998817909e-12 
R23 0058 0061 0.000780645572523 
L23 0061 0016 2.165e-09 
R24 0062 0063 0.000781781830556 
L24 0063 0064 6.66131787719e-09 
C24 0064 0 3.92750759446e-12 
R25 0062 0065 0.00084433872832 
L25 0065 0066 7.31466067625e-09 
C25 0066 0 4.25792668736e-12 
R26 0062 0067 1e-06 
L26 0067 0068 1e-12 
R27 0068 0069 0.0114443763718 
L27 0069 0017 4.33e-09 
R28 0004 0070 5.20861325389e-05 
L28 0070 0071 3.2501625495e-10 
R29 0056 0072 6.19918500847e-05 
L29 0072 0073 4.87804222649e-10 
C29 0073 0 1.84583680889e-12 
R30 0056 0074 1e-06 
L30 0074 0075 1e-12 
R31 0075 0076 0.000780645572523 
L31 0076 0006 2.165e-09 
R32 0077 0078 9.42382571468e-05 
L32 0078 0079 5.02242736725e-10 
R33 0077 0080 1e-06 
L33 0080 0081 1e-12 
R34 0077 0082 9.00967252327e-05 
L34 0082 0064 6.59285616229e-10 
R35 0081 0083 0.0114443763718 
L35 0083 0010 4.33e-09 
R36 0027 0084 0.000323718299532 
L36 0084 0005 3.98264658341e-09 
C36 0005 0 4.18747819694e-10 
R37 0064 0085 0.000323718299532 
L37 0085 0011 3.98264658341e-09 
C37 0011 0 4.18747819694e-10 
R38 0086 0087 0.000323718299532 
L38 0087 0007 3.98264658341e-09 
C38 0007 0 4.18747819694e-10 
R39 0086 0088 6.39863048767e-05 
L39 0088 0089 1.08647984131e-09 
C39 0089 0 9.49901518259e-12 
R40 0086 0090 6.39863048767e-05 
L40 0090 0091 1.08647984131e-09 
C40 0091 0 9.49901518259e-12 
R41 0092 0093 2.44799092688e-05 
L41 0093 0094 3.00144383853e-10 
C41 0094 0 4.49078293698e-12 
R42 0092 0095 0.000323718299532 
L42 0095 0008 3.98264658341e-09 
C42 0008 0 4.18747819694e-10 
R43 0092 0096 2.44799092688e-05 
L43 0096 0097 3.00144383853e-10 
C43 0097 0 4.49078293698e-12 
R44 0098 0099 8.10581047927e-05 
L44 0099 0100 1.89770491862e-09 
C44 0100 0 2.00656753031e-11 
R45 0098 0101 2.09130048957e-05 
L45 0101 0102 3.34795219731e-10 
C45 0102 0 7.24850719511e-12 
R46 0098 0103 0.000323718299532 
L46 0103 0009 3.98264658341e-09 
C46 0009 0 4.18747819694e-10 
R47 0038 0104 0.000175162844435 
L47 0104 0105 2.03106034909e-09 
C47 0105 0 5.33189583051e-12 
R48 0038 0106 1.40716342333e-05 
L48 0106 0107 1.96691232629e-10 
C48 0107 0 5.5745843924e-12 
R49 0031 0108 2.24332242162e-05 
L49 0108 0089 2.21355326472e-10 
C49 0089 0 2.49877055982e-12 
R50 0031 0109 0.000298809753275 
L50 0109 0110 2.06396196857e-09 
C50 0110 0 1.61269538618e-12 
R51 0073 0111 0.000197619057376 
L51 0111 0102 2.14790871411e-09 
C51 0102 0 4.73653487061e-12 
R52 0053 0112 0.000176709404829 
L52 0112 0113 1.56618787865e-09 
C52 0113 0 2.9115989698e-12 
R53 0053 0114 1.40077495568e-05 
L53 0114 0094 1.55804698958e-10 
C53 0094 0 4.19032666535e-12 
R54 0107 0115 4.90130502887e-05 
L54 0115 0102 1.00508369327e-09 
C54 0102 0 1.34045758368e-11 
R55 0116 0117 0.000410287187105 
L55 0117 0118 5.14078351688e-09 
C55 0118 0 9.72816270176e-12 
R56 0119 0120 0.000514790690133 
L56 0120 0121 6.39172093689e-09 
C56 0121 0 8.61586421229e-12 
.end