.subckt P1 P2 P3 P4 P5 P6 P7 P8 P9 P10 P11 P12
L_2_10  P2 PN210 L=1.6266e-08 
R_2_10 PN210 P10 R=0.0189038  
L_3_17  P3 PN317 L=1.92367e-08 
R_3_17 PN317 P17 R=0.00198058  
L_4_14  P4 PN414 L=3.39619e-08 
R_4_14 PN414 P14 R=0.0215823  
L_5_1  P5 PN51 L=1.12586e-08 
R_5_1 PN51 P1 R=0.00179439  
L_6_11  P6 PN611 L=2.50217e-08 
R_6_11 PN611 P11 R=0.00253749  
L_7_10  P7 PN710 L=5.70198e-09 
R_7_10 PN710 P10 R=0.0170031  
L_8_17  P8 PN817 L=3.05649e-08 
R_8_17 PN817 P17 R=0.00310877  
L_9_1  P9 PN91 L=2.03413e-08 
R_9_1 PN91 P1 R=0.00288939  
L_12_14  P12 PN1214 L=9.10882e-09 
R_12_14 PN1214 P14 R=0.0179599  
L_13_17  P13 PN1317 L=2.99456e-08 
R_13_17 PN1317 P17 R=0.00388796  
L_15_11  P15 PN1511 L=5.66036e-09 
R_15_11 PN1511 P11 R=0.000572485  
L_16_17  P16 PN1617 L=8.93017e-09 
R_16_17 PN1617 P17 R=0.00180208  
K_1_2 L_2_10 L_3_17 0.0984137275919 
K_1_3 L_2_10 L_4_14 0.212760050891 
K_1_4 L_2_10 L_5_1 0.0613653288827 
K_1_5 L_2_10 L_6_11 0.29533295673 
K_1_6 L_2_10 L_7_10 0.0990295781597 
K_1_7 L_2_10 L_8_17 0.250151596046 
K_1_8 L_2_10 L_9_1 0.24033973736 
K_1_9 L_2_10 L_12_14 0.0419711488983 
K_1_10 L_2_10 L_13_17 0.284084465916 
K_1_11 L_2_10 L_15_11 0.145438664665 
K_1_12 L_2_10 L_16_17 0.106059347703 
K_2_3 L_3_17 L_4_14 0.385693283628 
K_2_4 L_3_17 L_5_1 0.124203282066 
K_2_5 L_3_17 L_6_11 0.412114822636 
K_2_6 L_3_17 L_7_10 0.0071240611776 
K_2_7 L_3_17 L_8_17 0.869975197939 
K_2_8 L_3_17 L_9_1 0.210491819554 
K_2_9 L_3_17 L_12_14 0.194540289674 
K_2_10 L_3_17 L_13_17 0.476519113815 
K_2_11 L_3_17 L_15_11 0.177927357651 
K_2_12 L_3_17 L_16_17 0.340685419846 
K_3_4 L_4_14 L_5_1 0.0529443523318 
K_3_5 L_4_14 L_6_11 0.405968043278 
K_3_6 L_4_14 L_7_10 0.0292313331365 
K_3_7 L_4_14 L_8_17 0.454329876628 
K_3_8 L_4_14 L_9_1 0.235664557849 
K_3_9 L_4_14 L_12_14 0.301676744766 
K_3_10 L_4_14 L_13_17 0.456918540786 
K_3_11 L_4_14 L_15_11 0.100198769779 
K_3_12 L_4_14 L_16_17 0.219599718404 
K_4_5 L_5_1 L_6_11 0.129132769104 
K_4_6 L_5_1 L_7_10 0.0556676885203 
K_4_7 L_5_1 L_8_17 0.150083415935 
K_4_8 L_5_1 L_9_1 0.6985027042 
K_4_9 L_5_1 L_12_14 0.0295492451602 
K_4_10 L_5_1 L_13_17 0.0308296319193 
K_4_11 L_5_1 L_15_11 0.185836968188 
K_4_12 L_5_1 L_16_17 0.0141458720778 
K_5_6 L_6_11 L_7_10 0.0228589677351 
K_5_7 L_6_11 L_8_17 0.537256513001 
K_5_8 L_6_11 L_9_1 0.359694952184 
K_5_9 L_6_11 L_12_14 0.097807779121 
K_5_10 L_6_11 L_13_17 0.561999444234 
K_5_11 L_6_11 L_15_11 0.585777540708 
K_5_12 L_6_11 L_16_17 0.18178669964 
K_6_7 L_7_10 L_8_17 0.011303763792 
K_6_8 L_7_10 L_9_1 0.00904547164133 
K_6_9 L_7_10 L_12_14 0.00576116484606 
K_6_10 L_7_10 L_13_17 0.0506057034258 
K_6_11 L_7_10 L_15_11 0.0175762509995 
K_6_12 L_7_10 L_16_17 0.035883289488 
K_7_8 L_8_17 L_9_1 0.377151983879 
K_7_9 L_8_17 L_12_14 0.182219695356 
K_7_10 L_8_17 L_13_17 0.558732298481 
K_7_11 L_8_17 L_15_11 0.257618197391 
K_7_12 L_8_17 L_16_17 0.331684924544 
K_8_9 L_9_1 L_12_14 0.0540568313797 
K_8_10 L_9_1 L_13_17 0.216121495206 
K_8_11 L_9_1 L_15_11 0.281330752353 
K_8_12 L_9_1 L_16_17 0.0794261293955 
K_9_10 L_12_14 L_13_17 0.164959785893 
K_9_11 L_12_14 L_15_11 0.0407294864385 
K_9_12 L_12_14 L_16_17 0.13519823471 
K_10_11 L_13_17 L_15_11 0.170149347522 
K_10_12 L_13_17 L_16_17 0.581239728814 
K_11_12 L_15_11 L_16_17 0.0508823844038 
.end