.subckt P1 P2 P3 P4 P5 P6 P7 P8 P9 P10 P11 P12
L_2_10  P2 PN210 L=8.18583e-09 
R_2_10 PN210 P10 R=0.0146149  
L_3_17  P3 PN317 L=1.33461e-08 
R_3_17 PN317 P17 R=0.00168142  
L_4_14  P4 PN414 L=1.10535e-08 
R_4_14 PN414 P14 R=0.0152967  
L_5_1  P5 PN51 L=2.20235e-08 
R_5_1 PN51 P1 R=0.00335807  
L_6_11  P6 PN611 L=2.05818e-08 
R_6_11 PN611 P11 R=0.00234162  
L_7_10  P7 PN710 L=4.05258e-09 
R_7_10 PN710 P10 R=0.0136702  
L_8_17  P8 PN817 L=8.94807e-09 
R_8_17 PN817 P17 R=0.00111851  
L_9_1  P9 PN91 L=1.67162e-08 
R_9_1 PN91 P1 R=0.00267245  
L_12_14  P12 PN1214 L=5.72027e-09 
R_12_14 PN1214 P14 R=0.0142945  
L_13_17  P13 PN1317 L=1.00357e-08 
R_13_17 PN1317 P17 R=0.00203656  
L_15_11  P15 PN1511 L=1.4746e-08 
R_15_11 PN1511 P11 R=0.00175258  
L_16_17  P16 PN1617 L=5.72254e-09 
R_16_17 PN1617 P17 R=0.00143374  
K_1_2 L_2_10 L_3_17 0.204818686578 
K_1_3 L_2_10 L_4_14 0.0855185390129 
K_1_4 L_2_10 L_5_1 0.188112454951 
K_1_5 L_2_10 L_6_11 0.191291946243 
K_1_6 L_2_10 L_7_10 0.0167649358967 
K_1_7 L_2_10 L_8_17 0.101592828097 
K_1_8 L_2_10 L_9_1 0.141068012466 
K_1_9 L_2_10 L_12_14 0.0309800344308 
K_1_10 L_2_10 L_13_17 0.132793550663 
K_1_11 L_2_10 L_15_11 0.169053931362 
K_1_12 L_2_10 L_16_17 0.0742429192521 
K_2_3 L_3_17 L_4_14 0.276761719699 
K_2_4 L_3_17 L_5_1 0.297606957541 
K_2_5 L_3_17 L_6_11 0.384198394625 
K_2_6 L_3_17 L_7_10 0.0347259471771 
K_2_7 L_3_17 L_8_17 0.883071341059 
K_2_8 L_3_17 L_9_1 0.202726211389 
K_2_9 L_3_17 L_12_14 0.138466934459 
K_2_10 L_3_17 L_13_17 0.427375120251 
K_2_11 L_3_17 L_15_11 0.301474152373 
K_2_12 L_3_17 L_16_17 0.313576810042 
K_3_4 L_4_14 L_5_1 0.146226300452 
K_3_5 L_4_14 L_6_11 0.22216802135 
K_3_6 L_4_14 L_7_10 0.00352351381415 
K_3_7 L_4_14 L_8_17 0.250366392685 
K_3_8 L_4_14 L_9_1 0.0963392803461 
K_3_9 L_4_14 L_12_14 0.273048413923 
K_3_10 L_4_14 L_13_17 0.264793696338 
K_3_11 L_4_14 L_15_11 0.126678690101 
K_3_12 L_4_14 L_16_17 0.187684413047 
K_4_5 L_5_1 L_6_11 0.377328328037 
K_4_6 L_5_1 L_7_10 0.0414424082121 
K_4_7 L_5_1 L_8_17 0.187707943951 
K_4_8 L_5_1 L_9_1 0.865941187727 
K_4_9 L_5_1 L_12_14 0.0529532994608 
K_4_10 L_5_1 L_13_17 0.19519353889 
K_4_11 L_5_1 L_15_11 0.357714846951 
K_4_12 L_5_1 L_16_17 0.116573328238 
K_5_6 L_6_11 L_7_10 0.00892203245866 
K_5_7 L_6_11 L_8_17 0.294356382862 
K_5_8 L_6_11 L_9_1 0.309492305806 
K_5_9 L_6_11 L_12_14 0.0750084921941 
K_5_10 L_6_11 L_13_17 0.314677683454 
K_5_11 L_6_11 L_15_11 0.920377082617 
K_5_12 L_6_11 L_16_17 0.167451152681 
K_6_7 L_7_10 L_8_17 0.0458341953895 
K_6_8 L_7_10 L_9_1 0.0293003290994 
K_6_9 L_7_10 L_12_14 0.00539788790899 
K_6_10 L_7_10 L_13_17 0.0257160472157 
K_6_11 L_7_10 L_15_11 0.0175881847813 
K_6_12 L_7_10 L_16_17 0.0206758556913 
K_7_8 L_8_17 L_9_1 0.15420192682 
K_7_9 L_8_17 L_12_14 0.141820505456 
K_7_10 L_8_17 L_13_17 0.373000250616 
K_7_11 L_8_17 L_15_11 0.222197120778 
K_7_12 L_8_17 L_16_17 0.296632877764 
K_8_9 L_9_1 L_12_14 0.0402533769546 
K_8_10 L_9_1 L_13_17 0.112374199611 
K_8_11 L_9_1 L_15_11 0.311626731466 
K_8_12 L_9_1 L_16_17 0.0765751555504 
K_9_10 L_12_14 L_13_17 0.129499183588 
K_9_11 L_12_14 L_15_11 0.0526970765819 
K_9_12 L_12_14 L_16_17 0.0708672097113 
K_10_11 L_13_17 L_15_11 0.193945443467 
K_10_12 L_13_17 L_16_17 0.664521204908 
K_11_12 L_15_11 L_16_17 0.112317428958 
.end